US06878714B2
A mixture of 1,3-dinitro-4-tert-butylbenzene (10.0 g) in H2O (56 ml) was heated to reflux. A mixture of Na2S (21.42 g) and sulfur (2.85 g) in H2O (34 ml) was added over 1 h via an addition funnel. The reaction maintained at reflux for 1.5 h then cooled to RT and extracted with EtOAc. The organic extracts were combined and washed with H2O, brine, dried over MgSO4 and concentrated in vacuo to afford 4-tert-butyl-3-nitro-phenylamine which was used as is without further purification.

reactant | 1,3-dinitro-4-tert-butylbenzene | 10.0 g | [N+](=O)([O-])C1=CC(=C(C=C1)C(C)(C)C)[N+](=O)[O-] | C10H12N2O4
reactant | sulfur | 2.85 g | [S] | S
solvent | H2O | 56 ml | O | H2O
solvent | H2O | 34 ml | O | H2O
product | 4-tert-butyl-3-nitro-phenylamine | C(C)(C)(C)C1=C(C=C(C=C1)N)[N+](=O)[O-] | C10H14N2O2
